US04906621
A solution of 2.75 g of ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)-2,5-dihydropyrrole-2-carboxylate in 35 ml ethyl alcohol and 1.5 g 10% Pd/C is hydrogenated at 3 atmospheres pressure to yield cis and trans ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)-pyrrolidine-2-carboxylate.

reactant | ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)-2,5-dihydropyrrole-2-carboxylate | 2.75 g | C(C)OC(=O)N1C(C(=CC1)CP(=O)(OCC)OCC)C(=O)OCC | C15H26NO7P
solvent | ethyl alcohol | 35 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | trans ethyl 1-ethoxycarbonyl-3-(diethylphosphonomethyl)-pyrrolidine-2-carboxylate | C(C)OC(=O)N1[C@H]([C@@H](CC1)CP(=O)(OCC)OCC)C(=O)OCC | C15H28NO7P
